US08633312B2
2-(2,4-Difluoroanilino)-7-(3-hydroxy-propoxy)-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one (14j)
For the preparation of the compound by method C, 0.65 g (1.8 mmol) of 2-chloro-7-(3-acetoxypropoxy)-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one, 0.25 g (1.9 mmol) of 2,4-difluoroaniline, 0.05 g (0.22 mmol) of Pd(OAc)2, 0.10 g (0.21 mmol) of 2-(dicyclohexylphosphino)-2′-,4′-,6′-triisopropyl-biphenyl, 0.70 g (6.2 mmol) of KOt-Bu, 5 ml of toluene and 1 ml of t-BuOH are used. Yield: 40%; C24H21F2NO3 (Mr=409.44)

reactant | 2-chloro-7-(3-acetoxypropoxy)-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | 1.8 mmol, 0.65 g | ClC1=CC2=C(C(C3=C(CC2)C=CC(=C3)OCCCOC(C)=O)=O)C=C1 | C20H19ClO4
reactant | 2,4-difluoroaniline | 1.9 mmol, 0.25 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
reactant | 2-(dicyclohexylphosphino)-2′-,4′-,6′-triisopropyl-biphenyl | 0.21 mmol, 0.10 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=C(C=C1C(C)C)C(C)C)C(C)C)C1CCCCC1 | C33H49P
reactant | KOt-Bu | 6.2 mmol, 0.70 g | CC(C)(C)[O-].[K+]
catalyst | Pd(OAc)2 | 0.22 mmol, 0.05 g | CC(=O)[O-].CC(=O)[O-].[Pd+2]
solvent | t-BuOH | 1 ml | CC(C)(C)O | C4H10O
solvent | toluene | 5 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(2,4-Difluoroanilino)-7-(3-hydroxy-propoxy)-10,11-dihydrodibenzo[a,d]-cyclohepten-5-one | Yield: 40% | FC1=C(NC2=CC3=C(C(C4=C(CC3)C=CC(=C4)OCCCO)=O)C=C2)C=CC(=C1)F | C24H21F2NO3
